US04279912
1.24 g of ethyl 5,8-dichloroimidazo-[1,2-a]-quinoline-2-carboxylate were hydrolyzed with 3 ml of 2 N sodium hydroxide solution in 120 ml of 50--50 mixture of dimethoxyethane and ethanol. The resultant mixture was neutralized with 3.3 ml of 2 N hydrochloric acid by the method of Example 20 to obtain fine off-white crystals of 5,8-dichloroimidazo-[1,2-a]-quinoline-2-carboxylic acid melting at ≈305° C. (decomp).

reactant | ethyl 5,8-dichloroimidazo-[1,2-a]-quinoline-2-carboxylate | 1.24 g | ClC1=CC=2N(C3=CC(=CC=C13)Cl)C=C(N2)C(=O)OCC | C14H10Cl2N2O2
reactant | sodium hydroxide | 2 N, 3 ml | [OH-].[Na+]
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | hydrochloric acid | 2 N, 3.3 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5,8-dichloroimidazo-[1,2-a]-quinoline-2-carboxylic acid | ClC1=CC=2N(C3=CC(=CC=C13)Cl)C=C(N2)C(=O)O | C12H6Cl2N2O2
